US05002942
2-Amino-5-phenoxybenzenethiol
14 ml of ethylene glycol were added to a solution of 42.3 g of caustic potash dissolved in 49 ml of water, and after the air in the reaction vessel had been replaced by nitrogen, 10.57 g of 2-amino-6-phenoxybenzothiazole were added. While blowing nitrogen through the reaction mixture, the reaction was carried out on an oil bath at 135° C. for 2 hours. At the end of this time, the reaction mixture was cooled, 105 ml of toluene were added, and the mixture was ,neutralized by the addition of 42.3 mI of acetic acid. The toluene layer was separated, and the aqueous layer was once again extracted with toluene. The combined toluene extracts were washed with an aqueous solution of sodium bicarbonate, with water, and with an aqueous solution of sodium chloride, in that order, after which they were dried over anhydrous magnesium sulfate. The resulting solution was then concentrated by evaporation under reduced pressure, and the residue Was dried, to give 9.6 g of the title compound as a solid. This compound was used for the next reaction without further purification.

reactant | ethylene glycol | 14 ml | C(CO)O | C2H6O2
reactant | caustic potash | 42.3 g | [OH-].[K+]
reactant | 2-amino-6-phenoxybenzothiazole | 10.57 g | NC=1SC2=C(N1)C=CC(=C2)OC2=CC=CC=C2 | C13H10N2OS
reactant | toluene | 105 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 49 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-5-phenoxybenzenethiol | 9.6 g | NC1=C(C=C(C=C1)OC1=CC=CC=C1)S | C12H11NOS
